US08802679B2
To a solution of 1-(3-bromophenyl)-N-methylmethanamine (12.0 g) and N-(tert-butoxycarbonyl)glycine (11.5 g) in dichloroethane (80 ml) were added HOBt (9.7 g) and WSC hydrochloride (13.7 g), followed by stirring at room temperature overnight. To the reaction mixture was added a saturated aqueous sodium hydrogen carbonate solution, followed by extraction with CHCl3. The mixture was dried over Na2SO4 and then concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (CHCl3/MeOH) to obtain tert-butyl {2-[(3-bromobenzyl)(methyl)amino]-2-oxoethyl}carbamate (21.3 g).

reactant | 1-(3-bromophenyl)-N-methylmethanamine | 12.0 g | BrC=1C=C(C=CC1)CNC | C8H10BrN
reactant | N-(tert-butoxycarbonyl)glycine | 11.5 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | HOBt | 9.7 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC hydrochloride | 13.7 g | CCN=C=NCCCN(C)C.Cl
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloroethane | 80 ml | ClC(C)Cl | C2H4Cl2
product | tert-butyl {2-[(3-bromobenzyl)(methyl)amino]-2-oxoethyl}carbamate | 21.3 g | BrC=1C=C(CN(C(CNC(OC(C)(C)C)=O)=O)C)C=CC1 | C15H21BrN2O3
